US07354932B2
(2-Imidazol-1-yl-ethyl)-carbamic acid tert-butyl ester
A solution of imidazole (253 mg, 3.72 mmol) in DMF (2 mL) was added to a suspension of NaH (60% in mineral oil, 164 mg, 4.10 mmol) in DMF (8 mL), and the mixture was stirred at room temperature for 45 minutes. A solution of toluene-4-sulfonic acid 2-tert-butoxycarbonylamino-ethyl ester (1.29 g, 4.09 mmol) in DMF (6 mL) was added, and the mixture was stirred at room temperature for 16 h then concentrated in vacuo. The residue was partitioned between H2O (25 mL) and EtOAc (25 mL), and the aqueous phase was extracted with EtOAc (25 mL). The combined organic phases were dried (MgSO4) and concentrated in vacuo. Purification of the crude material by column chromatography on silica gel (200:5:1-100:5:1 CH2Cl2/MeOH/NH4OH) gave a colourless oil (224 mg, 29%). 1H NMR (CDCl3) δ 1.44 (s, 9H), 3.43 (m, 2H), 4.08 (m, 2H), 4.64 (br s, 1H), 6.92 (s, 1H), 7.09 (s, 1H), 7.46 (s, 1H).

reactant | imidazole | 3.72 mmol, 253 mg | N1C=NC=C1 | C3H4N2
reactant | NaH | 4.10 mmol, 164 mg | [H-].[Na+]
reactant | toluene-4-sulfonic acid 2-tert-butoxycarbonylamino-ethyl ester | 4.09 mmol, 1.29 g | C(C)(C)(C)OC(=O)NCCOS(=O)(=O)C1=CC=C(C=C1)C | C14H21NO5S
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
solvent | DMF | 6 mL | CN(C)C=O | C3H7NO
product | (2-Imidazol-1-yl-ethyl)-carbamic acid tert-butyl ester | 224 mg, 29% | C(C)(C)(C)OC(NCCN1C=NC=C1)=O | C10H17N3O2
